US04971982
134 mg of 3,4-dihydro-2,2-dimethyl-6-(4-nitrobenzoyl)-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 15 ml of dichloromethane and 72 mg of m-chloroperbenzoic acid were added. The mixture was stirred at room temperature overnight. After washing in succession with sodium bisulphite solution and sodium bicarbonate solution the organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/methanol (4:1) for the elution. The residue was recrystallized from isopropanol to give 50 mg of 2-[3,4-dihydro-2,2-dimethyl-6-(4-nitrobenzoyl)-2H-1-benzopyran-4-yl]-pyridine N-oxide of melting point 209°-211° C.

reactant | 3,4-dihydro-2,2-dimethyl-6-(4-nitrobenzoyl)-4-(2-pyridyl)-2H-1-benzopyran | 134 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C23H20N2O4
reactant | m-chloroperbenzoic acid | 72 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[3,4-dihydro-2,2-dimethyl-6-(4-nitrobenzoyl)-2H-1-benzopyran-4-yl]-pyridine N-oxide | 50 mg | CC1(OC2=C(C(C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C23H20N2O5
